US06184238B2
Under argon, a dimethylformamide (50 ml) solution of indole (18 g) was added into dimethylformamide (350 ml) in which 60% sodium hydride (7.9 g) was suspended, and the mixture was stirred at room temperature for 30 minutes. A dimethylformamide (100 ml) solution of 3-chloromethylpyridine hydrochloride (25 g) was added at 0° C. and the mixture stirred at room temperature for 18 hours. After the reaction, a saturated aqueous sodium hydrogencarbonate solution was added at 0° C. and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and dried over magnesium sulfate, then the solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography to obtain 1-(3-pyridylmethyl)indole (31.9 g).

reactant | indole | 18 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 7.9 g | [H-].[Na+]
reactant | 3-chloromethylpyridine hydrochloride | 25 g | Cl.ClCC=1C=NC=CC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(3-pyridylmethyl)indole | 31.9 g | N1=CC(=CC=C1)CN1C=CC2=CC=CC=C12 | C14H12N2
